US04113940
2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (3.82 g) was suspended in dried dichloromethane (80 ml) and dissolved by adding under stirring and ice-cooling a solution of triethylamine (0.9 g) and dimethylaniline (0.15 g) in dichloromethane (20 ml). To the solution were added (1,3,4-thiadiazol-2-ylthio)acetic acid (1.8 g) and dicyclohexylcarbodiimide (2.25 g) under stirring and ice-cooling, and the mixture was stirred for 1 hour under ice-cooling. To the reaction mixture, was added 5% hydrochloric acid (50 ml), and the mixture was stirred for 30 minutes, after which the organic layer was separated, washed in turn with 5% hydrochloric acid, a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution, and then dried over magnesium sulfate. The solvent was distilled off to give pale brown powder of 2,2,2-trichloroethyl 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylate (4.5 g), mp 130° to 140° C. (dec.).

reactant | 2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 3.82 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | dimethylaniline | 0.15 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | (1,3,4-thiadiazol-2-ylthio)acetic acid | 1.8 g | S1C(=NN=C1)SCC(=O)O | C4H4N2O2S2
reactant | dicyclohexylcarbodiimide | 2.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylate | 4.5 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CSC=2SC=NN2)=O)=O | C14H13Cl3N4O4S3
